US07109354B2
a) 4-Bromo-5-methyl-3-nitrobenzoic acid methyl ester
4-Bromo-3-methylbenzoic acid methyl ester (10.13 g, 44 mmol) was dissolved in a mixture of H2SO4 120 mL and TFA (15 mL) at room temperature. The solution was cooled on an ice bath and KNO3 (4.65 g, 46 mmol) was added portionwise over 30 min. The mixture was stirred at ambient temperature for 4 hours during which it warmed to rt. TLC analysis (after mini aqueous workup) showed total disappearance of starting material (30% EtOAc/Hex). The solution was poured onto ice and the aqueous slurry was extracted with EtOAc (3×150 mL). The organic layer was washed with 5% Na2CO3 (3×75 mL), NaHCO3 (3×50 mL), water (2×100 mL), brine (100 mL), then was dried over sodium sulfate. Concentration of the solution yielded a yellowish solid/gel substance (11.6 g) which was one spot by TLC. 1H NMR analysis shows two (major) products in ˜2:1 ratio, corresponding to the o- and m-nitrobenzoate derivatives. The material was carried onto the next step without further purification.

reactant | 4-Bromo-3-methylbenzoic acid methyl ester | 44 mmol, 10.13 g | COC(C1=CC(=C(C=C1)Br)C)=O | C9H9BrO2
reactant | KNO3 | 46 mmol, 4.65 g | [N+](=O)([O-])[O-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2SO4 | 120 mL | OS(=O)(=O)O | H2O4S
solvent | TFA | 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-Bromo-5-methyl-3-nitrobenzoic acid methyl ester | COC(C1=CC(=C(C(=C1)C)Br)[N+](=O)[O-])=O | C9H8BrNO4
